US06410729B1
Step A: 4-(4-Pyridyl)-2(1H)-pyrimidinone
A mixture of 4-acetylpyridine (25 ml, 226.0 mmol) and bis(dimethylamino)methoxymethane (44 ml 293.8 mmol) was heated at 85° C. for 30 min followed by evaporation to dryness to recover a solid of 3-(dimethylamino)-1-(4-pyridyl)-3-propen-1-one. Its ethanolic solution (2.00 ml) was transferred into ethanolic 1.13 N sodium ethoxide (200 ml) containing urea (16.3 g, 271 mmol) The mixture was heated to reflux overnight, then cooled down to ice-bath temperature. The precipitate was filtered, dissolved in a minimal amount of water and the aqueous solution was washed with dichloromethane. The title compound was precipitated from the aqueous solution by neutralization with 6N hydrochloric acid and filtered. More material was obtained from the original reaction filtrate which was concentrated, diluted with a minimal amount of water and washed with dichloromethane. The aqueous solution was neutralized with 6N hydrochloric acid and the precipitate filtered. MS (m/z): 174.1 (M+H)+; C9H7N3O requir. 173.2.

reactant | 4-acetylpyridine | 226.0 mmol, 25 ml | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | bis(dimethylamino)methoxymethane | 293.8 mmol, 44 ml | CN(C)C(OC)N(C)C | C6H16N2O
reactant | urea | 271 mmol, 16.3 g | NC(=O)N | CH4N2O
product | 4-(4-Pyridyl)-2(1H)-pyrimidinone | N1=CC=C(C=C1)C1=NC(NC=C1)=O | C9H7N3O
